US05362878
N-(Isoquinolin-5-yl)-2-(methoxycarbonylmethyl)nonadecanoic amide
Commercially available N-(isoquinolin-5-yl )-2-(carboxymethyl)nonadecanoic amide was esterified with diazomethane in ether to give the title compound.

reactant | N-(isoquinolin-5-yl )-2-(carboxymethyl)nonadecanoic amide | C1=NC=CC2=C(C=CC=C12)NC(C(CCCCCCCCCCCCCCCCC)CC(=O)O)=O | C30H46N2O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | N-(Isoquinolin-5-yl)-2-(methoxycarbonylmethyl)nonadecanoic amide | C1=NC=CC2=C(C=CC=C12)NC(C(CCCCCCCCCCCCCCCCC)CC(=O)OC)=O | C31H48N2O3
